US06756378B2
To a stirred solution of pentafluorophenyl ester of 3-methoxy-4-[N′-(2-fluorophenyl)ureido]phenylacetic acid (135 mg, 0.28 mmol) and ethyl 3-methoxy-4-(2-ethylaminoethoxy)benzoate (78 mg, 0.29 mmol) was added Et3N (0.1 mL, 0.72 mmol), and the resulting mixture was stirred overnight. The mixture was diluted with EtoAc, washed successively with 0.5N HCl, brine, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silica-gel with CHCl3—MeOH (50:1, v/v) as eluent to give 160 mg (q.y.) ethyl 3-methoxy-4-[2-[3-methoxy-4-[N′-(2-fluorophenyl)ureido]phenylacetyl]ethylaminoethoxy]benzoate as an oil. 1H-NMR (CDCl3) d 1.13-1.23 (m, 3 H), 1.37-1.40 (m, 3 H), 2.90-3.89 (m, 12 H), 4.09-4.28 (m, 2 H), 4.33-4.39 (m, 2 H), 6.70-8.21 (series of m, total 12 H).

reactant | 3-methoxy-4-[N′-(2-fluorophenyl)ureido]phenylacetic acid | 0.28 mmol, 135 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)F)CC(=O)O | C16H15FN2O4
reactant | ethyl 3-methoxy-4-(2-ethylaminoethoxy)benzoate | 0.29 mmol, 78 mg | COC=1C=C(C(=O)OCC)C=CC1OCCNCC | C14H21NO4
reactant | Et3N | 0.72 mmol, 0.1 mL | CCN(CC)CC | C6H15N
product | ethyl 3-methoxy-4-[2-[3-methoxy-4-[N′-(2-fluorophenyl)ureido]phenylacetyl]ethylaminoethoxy]benzoate | 160 mg | COC=1C=C(C(=O)OCC)C=CC1OCCNCCC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)OC)=O | C30H34FN3O7
